US04966835
To 70 ml of an acetonitrile solution containing 21 g of 6-chloro-1,3-dimethyluracil thus obtained was added 16 g of N-chlorosuccinimide under cooling with ice (at the solution temperature of 5° C.). The temperature was gradually raised to 35° C. After further stirring for 1 hour, 70 ml of water was added to the reaction solution, and the crystals thus deposited were collected by filtration, washed with a cold solvent mixture of 18 ml of acetonitrile and 18 ml of water and dried to obtain 18 g of 5,6-dichloro-1,3-dimethyluracil.

reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
reactant | 6-chloro-1,3-dimethyluracil | 21 g | ClC1=CC(N(C(N1C)=O)C)=O | C6H7ClN2O2
reactant | N-chlorosuccinimide | 16 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | 70 ml | O | H2O
product | 5,6-dichloro-1,3-dimethyluracil | 18 g | ClC=1C(N(C(N(C1Cl)C)=O)C)=O | C6H6Cl2N2O2
